US05686459
A mixture of 2.84 g of (1RS,3SR,3aRS,6aSR)-4-(5-butyl-3-methyl-4,6-dioxo-octahydro-pyrrolo[3,4-c]pyrrol-1-yl)-benzonitrile, 85% formic acid (4.9 g, 90 mmol) and 35% formalin solution (2.6 g, 30 mmol) were heated to 100° C. for 5.5 hours. After cooling 1N NaOH (50 ml) was added and the mixture was extracted four times with dichloromethane. The organic phase was concentrated and the residue was separated chromatographically (hexane/ethyl acetate 3:1+1% triethylamine). 2.52 g of (1RS,3SR,3aRS,6aSR)-4-(5-butyl-2,3-dimethyl-4,6-dioxo-octahydro-pyrrolo[3,4-c]pyrrol-1-yl)-benzonitrile (85%) were isolated as a colourless oil. EI-MS: 325 (M+, 8); 310 (95); 223 (10); 183 (24); 171 (40); 157 (10); 143 (9); 70 (15); 56 (17); 43 (100).

reactant | (1RS,3SR,3aRS,6aSR)-4-(5-butyl-3-methyl-4,6-dioxo-octahydro-pyrrolo[3,4-c]pyrrol-1-yl)-benzonitrile | 2.84 g | C(CCC)N1C(C2C(C1=O)C(NC2C2=CC=C(C#N)C=C2)C)=O | C18H21N3O2
reactant | formic acid | 90 mmol, 4.9 g | C(=O)O | CH2O2
reactant | formalin | 30 mmol, 2.6 g | C=O | CH2O
solvent | NaOH | 1N, 50 ml | [OH-].[Na+]
product | (1RS,3SR,3aRS,6aSR)-4-(5-butyl-2,3-dimethyl-4,6-dioxo-octahydro-pyrrolo[3,4-c]pyrrol-1-yl)-benzonitrile | 2.52 g, 85% | C(CCC)N1C(C2C(C1=O)C(N(C2C2=CC=C(C#N)C=C2)C)C)=O | C19H23N3O2
